US05254565
A mixture of 6-chloro-3-(N-methylacetamido)-4-phenylquinoline (0.9 g), methanol (5 ml) and conc. hydrochloric acid (5 ml) was refluxed for 5 hrs. It was diluted with water and neutralized with aqueous sodium hydroxide solution. The resultant precipitate was collected by filtration and recrystallized from methanol to give 6-chloro-3-methylamino-4-phenylquinoline as pale yellow crystals. Yield 0.65 g (83.5%). m.p. 139°-140° C.

reactant | 6-chloro-3-(N-methylacetamido)-4-phenylquinoline | 0.9 g | ClC=1C=C2C(=C(C=NC2=CC1)N(C(C)=O)C)C1=CC=CC=C1 | C18H15ClN2O
reactant | methanol | 5 ml | CO | CH4O
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | water | O | H2O
solvent | sodium hydroxide | [OH-].[Na+]
product | 6-chloro-3-methylamino-4-phenylquinoline | ClC=1C=C2C(=C(C=NC2=CC1)NC)C1=CC=CC=C1 | C16H13ClN2
